US06337328B1
3′-Chloro-2-bromo-propiophenone:
To a solution of 3′-chloropropiophenone (50.0 g, 297 mmol) in acetonitrile (595 mL) was added bromine (16.67 mL, 327 mmol) at room temperature. The reddish-yellow solution was allowed to stir for 18 h at room temperature. The solution was concentrated in vacuo to provide a reddish solid. The crude material was dissolved in 400 mL of ethyl acetate and washed with 400 mL of water. The organic layer was dried (Na2SO4), filtered and concentrated in vacuo to give 72.6 g (98%) of crude product. 1H NMR (CDCl3) δ1.90 (d, J=6 Hz, 3H), 5.21 (q, J=6 Hz, 1H), 7.37-7.88 (m, 3H), 7.98 (s, 1H).

reactant | 3′-chloropropiophenone | 297 mmol, 50.0 g | ClC=1C=C(C=CC1)C(CC)=O | C9H9ClO
reactant | bromine | 327 mmol, 16.67 mL | BrBr | Br2
solvent | acetonitrile | 595 mL | C(C)#N | C2H3N
solvent | ethyl acetate | 400 mL | C(C)(=O)OCC | C4H8O2
product | 3′-Chloro-2-bromo-propiophenone | 72.6 g, 98% | ClC=1C=C(C=CC1)C(C(C)Br)=O | C9H8BrClO
